US06660753B2
A mixture of 2-(3-iodophenyl)-4-(pyridin-2-yl)-1,3-thiazole (130 mg, 0.36 mmol), zinc cyanide (117 mg, 1.0 mmol) and Pd(PPh3)4 (10 mg, 0.009 mmol) in N,N-dimethylformamide (2 mL) was heated overnight at 80° C. The mixture was cooled and diluted with toluene (5 mL). The organic solution was washed with 2N NH40H (2×10 mL). The mixture was then extracted with ethyl acetate and the organic extract was washed with brine. The organic solution was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Silica gel chromatography afforded 28 mg (30%) of 2-(3-cyanophenyl)-4-(pyridin-2-yl)-1,3-thiazole: 1H-NMR (CDCl3), δ ppm: 8.65 (d, 1H), 8.38 (s, 1H), 8.25 (m, 2H), 8.15 (s, 1H), 7.85 (m, 1H), 7.72 (m, 1H), 7.6 (t, 1H), 7.28 (m, 1H). GC/EI-MS gave m/z 263 (M+)

reactant | 2-(3-iodophenyl)-4-(pyridin-2-yl)-1,3-thiazole | 0.36 mmol, 130 mg | IC=1C=C(C=CC1)C=1SC=C(N1)C1=NC=CC=C1 | C14H9IN2S
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | zinc cyanide | 1.0 mmol, 117 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(PPh3)4 | 0.009 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3-cyanophenyl)-4-(pyridin-2-yl)-1,3-thiazole | 28 mg, 30% | C(#N)C=1C=C(C=CC1)C=1SC=C(N1)C1=NC=CC=C1 | C15H9N3S
